US08420655B2
To a mixture of 5-methoxy-isobenzofuran-1,3-dione (950 mg, 5.33 mmol) is added 0.5 M NaOMe in MeOH (16 mL, 18 mmol). The reaction mixture is stirred at room temperature for 16 hours. The reaction mixture is concentrated under reduced pressure and the resulting residue subsequently quenched with 1M HCl aq (100 mL). The quenched reaction mixture is extracted with EtOAc (100 mL×2) and the combined organic layers are dried with Na2SO4 and filtered. The filtrate is concentrated under reduced to afford crude 4-methoxy-phthalic acid 2-methyl ester (850 mg).

reactant | 5-methoxy-isobenzofuran-1,3-dione | 5.33 mmol, 950 mg | COC=1C=C2C(OC(C2=CC1)=O)=O | C9H6O4
reactant | NaOMe | 0.5 M | C[O-].[Na+]
reactant | MeOH | 18 mmol, 16 mL | CO | CH4O
product | 4-methoxy-phthalic acid 2-methyl ester | 850 mg | COC(C=1C(C(=O)O)=CC=C(C1)OC)=O | C10H10O5
